US06291511B1
Step A: 2-Trifluoromethoxybenzeneboronic Acid.
A solution of 2-bromo-trifluoromethoxybenzene (1.0 g, 4.15 mmol) in dry tetrahydrofuran (20 mL) was cooled to −70° C. A 2.5 M solution of n-butyllithium in hexanes (2.0 mL, 4.98 mmol) was slowly added over a 5 min period, keeping the temperature below −65° C. After stirring at −70° C. for 30 min, triisopropylborate (1.5 mL, 6.22 mmol) was added over a 5 min period. After stirring at −70° C. for 30 min, the solution was stirred at room temperature overnight. An aqueous solution of 2N HCl (10 mL) was added and the mixture stirred for 2 hr. The solution was diluted with ethyl acetate (100 mL). The layers were separated and the organic layer successively washed with 2N HCl (2×25 mL), water (1×25 mL), and saturated salt solution (1×25 mL). The solution was dried over anhydrous magnesium sulfate, filtered and concentrated by rotoevaporation to a pale crystalline solid which was triturated with a little hexanes and filtered. The filtrate was concentrated to a white solid. The two solids were combined to yield 434 mg of the title compound which was used without further purification in the subsequent reaction.

reactant | 2-bromo-trifluoromethoxybenzene | 4.15 mmol, 1.0 g | BrC1=C(C=CC=C1)OC(F)(F)F | C7H4BrF3O
reactant | n-butyllithium | C(CCC)[Li]
reactant | triisopropylborate | 6.22 mmol, 1.5 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 2N, 10 mL | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-Trifluoromethoxybenzeneboronic Acid | 434 mg | FC(OC1=C(C=CC=C1)B(O)O)(F)F | C7H6BF3O3
